US06040321
To a solution of [[2-(acetylamino)-5-thiazolyl]thio]-N-(2-oxobutyl)acetamide (10.5 g, 34.8 mmol) in acetic anhydride (100 mL) was added conc. sulfuric acid (10 mL). The mixture was stirred at 55-60° C. for 2 h and sodium acetate (15 g, 0.18 mol) was added to the mixture. The mixture was concentrated in vacuo. To the residue was added cold water (100 mL). The precipitated solid was collected, washed with water and dried. It was purified by a flash column chromatography (SiO2 ; methylene chloride: MeOH/100:5) to afford N-[5-[[(5-ethyl-2-oxazolyl)methyl]thio]-2-thiazolyl]acetamide (4.2 g, 43%) as a solid, mp 147-148° C. 1H NMR (CDCl3) δ12.47 (s, 1 H), 7.29 (s, 1 H), 6.61 (s, 1 H), 3.91 (s, 2 H), 2.64 (q, J=7.6 Hz, 2 H), 2.25 (s, 3 H), 1.21 (t, J=7.6 Hz, 3 H) ppm; MS m/e 284 (M+H)+ ;

reactant | [[2-(acetylamino)-5-thiazolyl]thio]-N-(2-oxobutyl)acetamide | 34.8 mmol, 10.5 g | C(C)(=O)NC=1SC(=CN1)SCC(=O)NCC(CC)=O | C11H15N3O3S2
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium acetate | 0.18 mol, 15 g | C(C)(=O)[O-].[Na+]
solvent | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
product | N-[5-[[(5-ethyl-2-oxazolyl)methyl]thio]-2-thiazolyl]acetamide | 4.2 g, 43% | C(C)C1=CN=C(O1)CSC1=CN=C(S1)NC(C)=O | C11H13N3O2S2
